US05654316
3,4-Difluoro-β-[2-[(phenyl)methylamino]-2-oxoethyl]benzenepropanoic acid
3-(3,4-Difluorophenyl)glutaric anhydride (3.61 g) in CH2Cl2 (75 mL) at 0° C. was treated sequentially with N-methylaniline (2.16 mL), triethylamine (2.78 mL) and N,N-dimethylaminopyridine (195 mg). The mixture was stirred at 0° C. for two hours then allowed to warm to room temperature and stirred for 12 hours. The reaction mixture was diluted with CH2Cl2 (300 mL) and washed with 1N HCl (1×100 mL) and water (1×100 mL). The organic layers were dried over MgSO4, filtered and concentrated to afford the title compound (4.3 g).

reactant | 3-(3,4-Difluorophenyl)glutaric anhydride | 3.61 g | FC=1C=C(C=CC1F)C1CC(=O)OC(C1)=O | C11H8F2O3
reactant | N-methylaniline | 2.16 mL | CNC1=CC=CC=C1 | C7H9N
reactant | triethylamine | 2.78 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 75 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
product | 3,4-Difluoro-β-[2-[(phenyl)methylamino]-2-oxoethyl]benzenepropanoic acid | 4.3 g | FC=1C=C(C=CC1F)C(CC(=O)O)CC(=O)NCC1=CC=CC=C1 | C18H17F2NO3
